US05254655
To dry DMF (25 ml) is added phosphorous oxychloride (15.4 g, 0.10 mol) at 0°-5° C. with mechanical stirring over 0.5 hours. N,2-Diallyl-N-methylaniline (18.7 g, 0.10 mol) in DMF (10 ml) is added in a slow stream with stirring. The mixture is heated to 100° C. with stirring for two hours. The mixture is cooled, poured into ice water (200 ml) and neutralized by slow addition of saturated sodium acetate (150 ml) with stirring. The mixture is extracted with ether two times. The extracts are washed with aqueous saturated sodium bicarbonate (50 ml), water, and then brine solution, dried over potassium carbonate, and concentrated to a solid. The solid is recrystallized from hexane-ethyl acetate to provide pure 3-allyl-4-(N-allyl-N-methylamino)benzaldehyde.

reactant | phosphorous oxychloride | 0.10 mol, 15.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,2-Diallyl-N-methylaniline | 0.10 mol, 18.7 g | C(C=C)N(C1=C(C=CC=C1)CC=C)C | C13H17N
reactant | sodium acetate | 150 ml | C(C)(=O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-allyl-4-(N-allyl-N-methylamino)benzaldehyde | C(C=C)C=1C=C(C=O)C=CC1N(C)CC=C | C14H17NO
